US08957214B2
6-chloro-3-acetylpyridine (1.03 g, 0.3 mmol) and a 30% ethylamine-methanol solution (1.0 mL) were mixed with 8 mL of chloroform, and the mixture was subjected to refluxing. After 8 hours, 1 mL of 30% ethylamine-methanol solution was added and stirring was continued for 12 hours at the same temperature. The chloroform was distilled off and the residue was dissolved in 10 mL of methanol, then ice-cooled. Sodium borohydride (1 g) was added a little at a time, and the system was stirred overnight. The methanol was distilled off, and the residue was extracted with acetonitrile. The extract was then concentrated under reduced pressure. Acetonitrile extraction and concentration under reduced pressure were each repeated another two times, following which the residue was dissolved in chloroform, washed with 1% aqueous NaOH, and the chloroform phase was dried over solid KOH. The chloroform was distilled off under reduced pressure, giving 790 mg of crude N-[1-(6-chloro-3-pyridyl)ethyl]-N-ethylamine product (purity, 80%).

reactant | 6-chloro-3-acetylpyridine | 0.3 mmol, 1.03 g | ClC1=CC=C(C=N1)C(C)=O | C7H6ClNO
reactant | ethylamine methanol | 1.0 mL | C(C)N.CO
reactant | ethylamine methanol | 1 mL | C(C)N.CO
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[1-(6-chloro-3-pyridyl)ethyl]-N-ethylamine | 790 mg, 80% | ClC1=CC=C(C=N1)C(C)NCC | C9H13ClN2
